US08536209B2
5-Phenyl-oxazole-4-carboxylic acid [2-(6-acetyl-pyridin-2-ylmethyl)-2H-[1,2,3]triazol-4-yl]-amide
Following general procedure A followed by B, starting from 2-[6-(2-methyl-[1,3]dioxolan-2-yl)-pyridin-2-ylmethyl]-2H-[1,2,3]triazol-4-ylamine and 5-phenyl-oxazole-4-carboxylic acid.

reactant | 2-[6-(2-methyl-[1,3]dioxolan-2-yl)-pyridin-2-ylmethyl]-2H-[1,2,3]triazol-4-ylamine | CC1(OCCO1)C1=CC=CC(=N1)CN1N=CC(=N1)N | C12H15N5O2
reactant | 5-phenyl-oxazole-4-carboxylic acid | C1(=CC=CC=C1)C1=C(N=CO1)C(=O)O | C10H7NO3
product | 5-Phenyl-oxazole-4-carboxylic acid [2-(6-acetyl-pyridin-2-ylmethyl)-2H-[1,2,3]triazol-4-yl]-amide | C(C)(=O)C1=CC=CC(=N1)CN1N=CC(=N1)NC(=O)C=1N=COC1C1=CC=CC=C1 | C20H16N6O3
